US07790756B2
4-Fluoro-3-nitrophenylboronic acid (0.9 g, 4.9 mmol) was dissolved in CH2Cl2 (10 mL) and pyridine (1 mL) with MS (activated 4A) and dried for 6 hours. A mixture of 4-fluoro-3-nitrophenylboronic acid, tert-butyl 3-isopropyl-1H-pyrazole-5-carboxylate (1.0 g, 4.9 mmol), copper(II) acetate (0.88 g, 4.9 mmol) and molecular sieves (4A activated, powder) was stirred at RT for 7 days open to the air. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated in vacuo and purified by silica gel column chromatography (EtOAc/hexane) to obtain tert-butyl 1-(4-fluoro-3-nitrophenyl)-3-isopropyl-1H-pyrazole-5-carboxylate (0.74 g, 44% yield). MS (ESI) m/z: 350.3 (M+H+).

reactant | 4-Fluoro-3-nitrophenylboronic acid | 4.9 mmol, 0.9 g | FC1=C(C=C(C=C1)B(O)O)[N+](=O)[O-] | C6H5BFNO4
reactant | tert-butyl 3-isopropyl-1H-pyrazole-5-carboxylate | 4.9 mmol, 1.0 g | C(C)(C)C1=NNC(=C1)C(=O)OC(C)(C)C | C11H18N2O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 4.9 mmol, 0.88 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | tert-butyl 1-(4-fluoro-3-nitrophenyl)-3-isopropyl-1H-pyrazole-5-carboxylate | 0.74 g, 44% yield | FC1=C(C=C(C=C1)N1N=C(C=C1C(=O)OC(C)(C)C)C(C)C)[N+](=O)[O-] | C17H20FN3O4
